US07635698B2
(4-Chloro-phenyl)-(2,5-dihydro-pyrrol-1-yl)-methanone
Pyrroline (4 mL, 54 mmol) was dissolved in THF (100 mL), Et3N (14 mL, 100 mmol) was added. The mixture was cooled to 0° C. 4-chloro-benzoyl chloride (7.6 mL, 60 mmol) was added very slowly at 0° C. Catalytic amount of DMAP was added too. Finally the reaction mixture was stirred at 0° C. to RT for overnight. The reaction mixture was diluted with ether and filtered to remove white solid of Et3N.HCl. Then evaporated to remove solvent and triturated with hexane/ether to give white solid 10.3 g with ratio of unsaturated/saturated about 3/1 by NMR. Then triturated with hexane/ether again to give 6.68 g white solid with ratio of unsaturated/saturated about 3.7/1 by NMR. 1H-NMR (300 MHz, CDCl3): δ 4.3 (4H, d), 5.80 (2H, d), 7.40 (4H, dd)

reactant | Pyrroline | 54 mmol, 4 mL | N1C=CCC1 | C4H7N
reactant | Et3N | 100 mmol, 14 mL | CCN(CC)CC | C6H15N
reactant | 4-chloro-benzoyl chloride | 60 mmol, 7.6 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | (4-Chloro-phenyl)-(2,5-dihydro-pyrrol-1-yl)-methanone | 10.3 g | ClC1=CC=C(C=C1)C(=O)N1CC=CC1 | C11H10ClNO
